*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 4.1
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_0 1 2 3 4 REF
C_C1 1 REF 0.3405334638683pf
C_C2 1 2 15.773656219681pf
C_C3 1 3 0.0560775793687pf
C_C4 1 4 0.166257959989pf
C_C5 2 REF 0.5335601268472pf
C_C6 2 3 0.0456812055931pf
C_C7 3 REF 0.3815586053103pf
C_C8 3 4 6.9828810197119pf
C_C9 4 REF 0.3504083453507pf
L_L1 3 5 1.3106927138982nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_1 1 2 3 4 REF
C_C1 1 REF 0.3492844884895pf
C_C2 1 2 15.86452941013pf
C_C3 1 3 0.0461985478493pf
C_C4 1 4 0.1779399042594pf
C_C5 2 REF 0.5454341381273pf
C_C6 2 3 0.0643129724891pf
C_C7 3 REF 0.3728616694139pf
C_C8 3 4 5.1731795918627pf
C_C9 4 REF 0.3588169731111pf
L_L1 3 5 1.3121733655154nh
R_RL1 5 4 2.1366635337e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_2 1 2 3 4 REF
C_C1 1 REF 0.3476998673435pf
C_C2 1 2 15.980312186453pf
C_C3 1 3 0.0379032201422pf
C_C4 1 4 0.1881454354442pf
C_C5 2 REF 0.547205848163pf
C_C6 2 3 0.0772318119809pf
C_C7 3 REF 0.3682830555035pf
C_C8 3 4 3.9103123973626pf
C_C9 4 REF 0.3630919440581pf
L_L1 3 5 1.3134140691352nh
R_RL1 5 4 1.4005812773e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_3 1 2 3 4 REF
C_C1 1 REF 0.339297622931pf
C_C2 1 2 16.161988291351pf
C_C3 1 3 0.0294341066102pf
C_C4 1 4 0.1991412532612pf
C_C5 2 REF 0.5433392646849pf
C_C6 2 3 0.0882349229051pf
C_C7 3 REF 0.3657928320903pf
C_C8 3 4 2.824520968648pf
C_C9 4 REF 0.3652414276898pf
L_L1 3 5 1.3146675537499nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_4 1 2 3 4 REF
C_C1 1 REF 0.3270813327421pf
C_C2 1 2 16.428348884914pf
C_C3 1 3 0.0214962720226pf
C_C4 1 4 0.2102646146745pf
C_C5 2 REF 0.536962663186pf
C_C6 2 3 0.0969778907431pf
C_C7 3 REF 0.3650276147365pf
C_C8 3 4 1.9552312830048pf
C_C9 4 REF 0.3656873749497pf
L_L1 3 5 1.3159176736583nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_5 1 2 3 4 REF
C_C1 1 REF 0.3157235511073pf
C_C2 1 2 16.752540460168pf
C_C3 1 3 0.0154287328716pf
C_C4 1 4 0.2197493409037pf
C_C5 2 REF 0.5319659405939pf
C_C6 2 3 0.1027816978671pf
C_C7 3 REF 0.3653226714935pf
C_C8 3 4 1.3807488077127pf
C_C9 4 REF 0.3651688522171pf
L_L1 3 5 1.3169248259385nh
R_RL1 5 4 -1.64997e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_6 1 2 3 4 REF
C_C1 1 REF 0.3062565580608pf
C_C2 1 2 17.137646080081pf
C_C3 1 3 0.0107333740447pf
C_C4 1 4 0.2281484560737pf
C_C5 2 REF 0.5294421981383pf
C_C6 2 3 0.1068815500055pf
C_C7 3 REF 0.3659451543213pf
C_C8 3 4 0.9877716631778pf
C_C9 4 REF 0.364399971461pf
L_L1 3 5 1.3177497825695nh
R_RL1 5 4 -2.533035513e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_7 1 2 3 4 REF
C_C1 1 REF 0.2974555876978pf
C_C2 1 2 17.673825685388pf
C_C3 1 4 0.2372183034423pf
C_C4 2 REF 0.529644426176pf
C_C5 2 3 0.1104518144768pf
C_C6 3 REF 0.36667759853pf
C_C7 3 4 0.6746685075576pf
C_C8 4 REF 0.3635658515866pf
L_L1 3 5 1.3185251531817nh
R_RL1 5 4 -3.383776311e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_8 1 2 3 4 REF
C_C1 1 REF 0.2894173493762pf
C_C2 1 2 18.399585376483pf
C_C3 1 4 0.2472815238101pf
C_C4 2 REF 0.5331115088417pf
C_C5 2 3 0.113758019507pf
C_C6 3 REF 0.3673228422759pf
C_C7 3 4 0.4339585210821pf
C_C8 4 REF 0.3628576189869pf
L_L1 3 5 1.3192539119665nh
R_RL1 5 4 -4.143330989e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_9 1 2 3 4 REF
C_C1 1 REF 0.2815840261762pf
C_C2 1 2 19.391429078678pf
C_C3 1 4 0.2591764240447pf
C_C4 2 REF 0.540263118806pf
C_C5 2 3 0.1172163615814pf
C_C6 3 REF 0.3677590894439pf
C_C7 3 4 0.2568638068733pf
C_C8 4 REF 0.3623832005759pf
L_L1 3 5 1.3198915851784nh
R_RL1 5 4 -4.71337371e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_10 1 2 3 4 REF
C_C1 1 REF 0.2729009229231pf
C_C2 1 2 20.727106273688pf
C_C3 1 4 0.2739679683976pf
C_C4 2 REF 0.5510553928396pf
C_C5 2 3 0.1213643710692pf
C_C6 3 REF 0.3679559042549pf
C_C7 3 4 0.1288680372693pf
C_C8 4 REF 0.3621530658807pf
L_L1 3 5 1.3204402281019nh
R_RL1 5 4 -5.02636467e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_11 1 2 3 4 REF
C_C1 1 REF 0.2617845516539pf
C_C2 1 2 22.56183475155pf
C_C3 1 4 0.2935918419493pf
C_C4 2 REF 0.5659712525176pf
C_C5 2 3 0.1270046917036pf
C_C6 3 REF 0.3679263951122pf
C_C7 3 4 0.0390546085164pf
C_C8 4 REF 0.362136873697pf
L_L1 1 5 66.382202241512nh
R_RL1 5 2 5.5501410286961
L_L2 3 6 1.3208843328197nh
R_RL2 6 4 -5.014917042e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_12 1 2 3 4 REF
C_C1 1 REF 0.2464181559615pf
C_C2 1 2 25.086249131267pf
C_C3 1 4 0.3204131352933pf
C_C4 2 REF 0.5857422037544pf
C_C5 2 3 0.1350824406177pf
C_C6 3 REF 0.3677234536931pf
C_C7 4 REF 0.3622734840571pf
L_L1 1 5 38.387261705865nh
R_RL1 5 2 3.0037446814094
L_L2 3 6 1.3210429242171nh
R_RL2 6 4 -4.643100692e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_13 1 2 3 4 REF
C_C1 1 REF 0.2238358590766pf
C_C2 1 2 28.692003491989pf
C_C3 1 4 0.3588415352743pf
C_C4 2 REF 0.6126517360827pf
C_C5 2 3 0.1471520380062pf
C_C6 3 REF 0.3673918856064pf
C_C7 4 REF 0.3625218085682pf
R_R1 1 2 -922.1040007479
L_L1 1 5 50.979045278846nh
R_RL1 5 2 -218.4999957336
L_L2 3 6 1.3208167481832nh
R_RL2 6 4 5.3230673075e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_14 1 2 3 4 REF
C_C1 1 REF 0.1898372610038pf
C_C2 1 2 33.978564733708pf
C_C3 1 4 0.4153016556421pf
C_C4 2 REF 0.6505489751597pf
C_C5 2 3 0.1652963799313pf
C_C6 3 REF 0.3669727442002pf
C_C7 4 REF 0.362865169753pf
R_R1 1 2 -568.1318530972
L_L1 1 5 16.498753009945nh
R_RL1 5 2 2.5020628801722
L_L2 3 6 1.3204075953305nh
R_RL2 6 4 -2.431522807e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_15 1 2 3 4 REF
C_C1 1 REF 0.1353130410593pf
C_C2 1 2 42.297318271096pf
C_C3 1 4 0.5040732926113pf
C_C4 2 REF 0.7085002800388pf
C_C5 2 3 0.1940673429879pf
C_C6 3 REF 0.3664709251643pf
C_C7 4 REF 0.3633579888388pf
R_R1 1 2 -378.2390362786
L_L1 1 5 9.0712993037868nh
R_RL1 5 2 1.1089086725519
L_L2 3 6 1.3197341372934nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_16 1 2 3 4 REF
C_C1 1 REF 0.0331563795224pf
C_C2 1 2 57.696948442225pf
C_C3 1 4 0.6683620799704pf
C_C4 2 REF 0.813948517577pf
C_C5 2 3 0.2475539027204pf
C_C6 3 REF 0.3657894319938pf
C_C7 4 REF 0.3642600860783pf
R_R1 1 2 -256.0021335559
L_L1 1 5 4.7259718259863nh
R_RL1 5 2 0.4123261617421
L_L2 3 6 1.3184990404519nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_17 1 2 3 4 REF
C_C1 1 2 92.006698391387pf
C_C2 1 4 1.0351244915521pf
C_C3 2 REF 1.0467329485934pf
C_C4 2 3 0.3676314786422pf
C_C5 3 REF 0.3646429049826pf
C_C6 4 REF 0.3664167937057pf
R_R1 1 2 -171.4904883314
L_L1 1 5 1.7203121291908nh
R_RL1 5 2 0.1271545646184
L_L2 1 6 74.692303375111nh
R_RL2 6 3 0.0793272345635
L_L3 1 7 73.938752986315nh
R_RL3 7 4 0.0798187795763
L_L4 2 8 74.771429754234nh
R_RL4 8 3 0.0061522057296
L_L5 2 9 74.020627151104nh
R_RL5 9 4 0.0060115047753
L_L6 3 10 1.3158110637016nh
R_RL6 10 4 2.9354962875e-5
Kn_K1 L_L1 L_L2 0.0723912690158
Kn_K2 L_L1 L_L3 0.0726374049727
Kn_K3 L_L1 L_L4 -0.079329651479
Kn_K4 L_L1 L_L5 -0.079852713921
Kn_K5 L_L2 L_L3 0.9911598710047
Kn_K6 L_L2 L_L4 0.9884902418171
Kn_K7 L_L2 L_L5 0.9795755144092
Kn_K8 L_L2 L_L6 -0.104369034553
Kn_K9 L_L3 L_L4 0.9796174570209
Kn_K10 L_L3 L_L5 0.9883732296107
Kn_K11 L_L3 L_L6 0.0285019704955
Kn_K12 L_L4 L_L5 0.9911693302914
Kn_K13 L_L4 L_L6 -0.104175283738
Kn_K14 L_L5 L_L6 0.0286254161032
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_18 1 2 3 4 REF
C_C1 1 2 203.87135895806pf
C_C2 1 4 2.2335405218708pf
C_C3 2 REF 1.8025285103638pf
C_C4 2 3 0.7613579301698pf
C_C5 3 REF 0.3616152773467pf
C_C6 4 REF 0.3740722273258pf
R_R1 1 2 -116.7253465855
L_L1 1 5 73.496792041647nh
R_RL1 5 REF -0.051382077303
L_L2 1 6 0.5256497072763nh
R_RL2 6 2 0.020773838347
L_L3 1 7 26.401220261402nh
R_RL3 7 3 0.0124924414578
L_L4 1 8 25.699416152548nh
R_RL4 8 4 0.012718895863
L_L5 2 9 73.034303114667nh
R_RL5 9 REF -0.02936328927
L_L6 2 10 26.484286631283nh
R_RL6 10 3 0.0013523248271
L_L7 2 11 25.786321383436nh
R_RL7 11 4 0.001254791054
L_L8 3 12 99.256405593647nh
R_RL8 12 REF -0.040588942992
L_L9 3 13 1.3071836785241nh
R_RL9 13 4 4.4291590543e-5
L_L10 4 14 98.544089876932nh
R_RL10 14 REF -0.039606113174
Kn_K1 L_L1 L_L2 0.0794887154492
Kn_K2 L_L1 L_L5 0.9964176719355
Kn_K3 L_L1 L_L8 0.8567520163276
Kn_K4 L_L1 L_L10 0.8597811548092
Kn_K5 L_L2 L_L3 0.0594025173808
Kn_K6 L_L2 L_L4 0.0596859106308
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081572246597
Kn_K9 L_L2 L_L7 -0.083190194683
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9749988671156
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9900618307176
Kn_K15 L_L3 L_L7 0.9648732859078
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.170988535453
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.965060011022
Kn_K21 L_L4 L_L7 0.9897917921474
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0522237228353
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8562566168289
Kn_K26 L_L5 L_L10 0.8592611475677
Kn_K27 L_L6 L_L7 0.9750789263984
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.170393957724
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0524662511734
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0886474304389
Kn_K35 L_L8 L_L10 0.9933978448859
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_19 1 2 3 4 REF
C_C1 1 2 1818.7402321153pf
C_C2 1 4 19.550961144669pf
C_C3 2 REF 12.697261231303pf
C_C4 2 3 6.4525994744343pf
C_C5 3 REF 0.3227761912009pf
C_C6 4 REF 0.4903510308433pf
R_R1 1 REF -769.293081689
R_R2 1 2 5.1791592721398
R_R3 1 4 481.35407887267
R_R4 2 REF 769.334545468
R_R5 2 4 -481.5953051525
L_L1 1 5 4.9055594580574nh
R_RL1 5 REF -2.130861819e-4
L_L2 1 6 0.0400179192783nh
R_RL2 6 2 -4.439922033e-3
L_L3 1 7 2.9383736806895nh
R_RL3 7 3 -2.02372003e-3
L_L4 1 8 2.3271024678382nh
R_RL4 8 4 -2.689729145e-3
L_L5 2 9 4.8799181244261nh
R_RL5 9 REF -4.653210483e-3
L_L6 2 10 2.9467507264425nh
R_RL6 10 3 -4.311877289e-4
L_L7 2 11 2.3401525741802nh
R_RL7 11 4 -2.113445059e-4
L_L8 3 12 7.800249365115nh
R_RL8 12 REF -2.264395232e-3
L_L9 3 13 1.1903983690339nh
R_RL9 13 4 1.0e-5
L_L10 4 14 7.1824083536641nh
R_RL10 14 REF -2.903336567e-3
Kn_K1 L_L1 L_L2 0.0740959409112
Kn_K2 L_L1 L_L5 0.9959138977555
Kn_K3 L_L1 L_L8 0.789499801331
Kn_K4 L_L1 L_L10 0.8222029057064
Kn_K5 L_L2 L_L3 0.0461357626902
Kn_K6 L_L2 L_L4 0.0441855968838
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.070464639299
Kn_K9 L_L2 L_L7 -0.086706887302
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010705279307
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7791922793629
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9932011636483
Kn_K16 L_L3 L_L7 0.7709834855888
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.481665428931
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7729347854743
Kn_K22 L_L4 L_L7 0.9914296882103
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1739762716373
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7888143679237
Kn_K27 L_L5 L_L10 0.8210924810641
Kn_K28 L_L6 L_L7 0.7799911945714
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.479732763215
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1748904148167
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2967054492446
Kn_K36 L_L8 L_L10 0.9213319446207
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_20 1 2 3 4 REF
C_C1 1 REF 16.036617538945pf
C_C2 1 3 8.226969456pf
C_C3 2 4 24.864202643531pf
C_C4 3 REF 0.4204939332456pf
C_C5 4 REF 0.1908456669294pf
R_R1 1 2 -8.485372975824
R_R2 1 4 -788.8900051353
R_R3 2 4 789.23362435712
L_L1 1 5 3.1966919497132nh
R_RL1 5 REF 8.4913837042e-4
L_L2 1 6 0.4833994896078nh
R_RL2 6 2 0.6583972683176
L_L3 1 7 2.3029362410515nh
R_RL3 7 3 0.2757466942816
L_L4 1 8 1.8277744133468nh
R_RL4 8 4 0.414460417603
L_L5 2 9 3.672547141815nh
R_RL5 9 REF 0.7073684014508
L_L6 2 10 2.1726807882787nh
R_RL6 10 3 0.0819843878135
L_L7 2 11 1.5682527033534nh
R_RL7 11 4 0.0281021801913
L_L8 3 12 5.5075976119891nh
R_RL8 12 REF 0.3077355415113
L_L9 3 13 1.1370790575596nh
R_RL9 13 4 0.0141022806523
L_L10 4 14 5.0432440944452nh
R_RL10 14 REF 0.4534913528785
Kn_K1 L_L1 L_L5 0.9318669880835
Kn_K2 L_L1 L_L8 0.7627993385493
Kn_K3 L_L1 L_L10 0.7984892568765
Kn_K4 L_L2 L_L3 0.2908038753709
Kn_K5 L_L2 L_L4 0.3951831013309
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.172294266564
Kn_K8 L_L2 L_L7 -0.128564148906
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0871779705217
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7295685503379
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.8923706614111
Kn_K15 L_L3 L_L7 0.6261721125371
Kn_K16 L_L3 L_L8 0.8987103521648
Kn_K17 L_L3 L_L9 -0.498154028915
Kn_K18 L_L3 L_L10 0.9407592861998
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.5647163511024
Kn_K21 L_L4 L_L7 0.8601726899365
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.229571019668
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0597626422697
Kn_K26 L_L5 L_L7 0.0411592989077
Kn_K27 L_L5 L_L8 0.7790513534587
Kn_K28 L_L5 L_L9 -0.034272854254
Kn_K29 L_L5 L_L10 0.8304009278297
Kn_K30 L_L6 L_L7 0.7053111046854
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.553990059169
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1994386730061
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3199648202328
Kn_K38 L_L8 L_L10 0.893093960921
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_21 1 2 3 4 REF
C_C1 1 2 224.12224216712pf
C_C2 1 4 2.4460550430854pf
C_C3 2 REF 1.9428004309428pf
C_C4 2 3 0.8334897263624pf
C_C5 3 REF 0.3595395061295pf
C_C6 4 REF 0.3735257882599pf
R_R1 1 2 -42.45721722816
L_L1 1 5 36.897827959568nh
R_RL1 5 REF 0.0047308764297
L_L2 1 6 0.1558476937462nh
R_RL2 6 2 0.014291069204
L_L3 1 7 13.948726881316nh
R_RL3 7 3 0.0081237457313
L_L4 1 8 13.254747511646nh
R_RL4 8 4 0.0085078724412
L_L5 2 9 36.557822318802nh
R_RL5 9 REF 0.019285475771
L_L6 2 10 14.049439434915nh
R_RL6 10 3 7.4934387346e-4
L_L7 2 11 13.363354506269nh
R_RL7 11 4 6.4592057282e-4
L_L8 3 12 50.565129851006nh
R_RL8 12 REF 0.0133354648251
L_L9 3 13 1.293470904167nh
R_RL9 13 4 -1.244845457e-5
L_L10 4 14 49.860409559018nh
R_RL10 14 REF 0.0136672681644
Kn_K1 L_L1 L_L2 0.1033885993304
Kn_K2 L_L1 L_L5 0.9978890329798
Kn_K3 L_L1 L_L8 0.8509723680702
Kn_K4 L_L1 L_L10 0.856839823389
Kn_K5 L_L2 L_L3 0.0186973910739
Kn_K6 L_L2 L_L4 0.0164342693624
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.086692131635
Kn_K9 L_L2 L_L7 -0.091624863437
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9527620731569
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944400800638
Kn_K15 L_L3 L_L7 0.9468633458362
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.233948711893
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9476101262223
Kn_K21 L_L4 L_L7 0.9941533239517
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0723917370042
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8497951868799
Kn_K26 L_L5 L_L10 0.8555613179362
Kn_K27 L_L6 L_L7 0.9531136250244
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.232182738667
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0730463781812
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1235387350361
Kn_K35 L_L8 L_L10 0.9871444053234
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_22 1 2 3 4 REF
C_C1 1 REF 0.088159137534pf
C_C2 1 2 52.777597730297pf
C_C3 1 4 0.6098658356618pf
C_C4 2 REF 0.7932679478195pf
C_C5 2 3 0.2288713469938pf
C_C6 3 REF 0.3627798066387pf
C_C7 4 REF 0.3602208117919pf
R_R1 1 2 -427.9743911972
L_L1 1 5 0.5447812699367nh
R_RL1 5 2 0.0147155209748
L_L2 1 6 57.178685633337nh
R_RL2 6 3 0.0128393271089
L_L3 1 7 56.333805738172nh
R_RL3 7 4 0.0129155747027
L_L4 2 8 57.819838716002nh
R_RL4 8 3 -7.156414049e-4
L_L5 2 9 56.982516428149nh
R_RL5 9 4 -7.308882033e-4
L_L6 3 10 1.3106527426424nh
R_RL6 10 4 -3.34242647e-5
Kn_K1 L_L1 L_L4 -0.105652829356
Kn_K2 L_L1 L_L5 -0.10710447234
Kn_K3 L_L2 L_L3 0.9884810503429
Kn_K4 L_L2 L_L4 0.9952781795842
Kn_K5 L_L2 L_L5 0.9836824963963
Kn_K6 L_L2 L_L6 -0.124498380789
Kn_K7 L_L3 L_L4 0.9838957458191
Kn_K8 L_L3 L_L5 0.9952086929831
Kn_K9 L_L3 L_L6 0.0271029026752
Kn_K10 L_L4 L_L5 0.9886096941532
Kn_K11 L_L4 L_L6 -0.123372104936
Kn_K12 L_L5 L_L6 0.0273854461323
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_23 1 2 3 4 REF
C_C1 1 REF 0.3068113589173pf
C_C2 1 2 20.974415729329pf
C_C3 1 3 0.0118325662785pf
C_C4 1 4 0.2695830906558pf
C_C5 2 REF 0.5858559474376pf
C_C6 2 3 0.1156219729213pf
C_C7 3 REF 0.3624899224528pf
C_C8 4 REF 0.3567818861578pf
L_L1 1 5 0.899774476954nh
R_RL1 5 2 3.1531251687e-4
L_L2 3 6 1.3134009301002nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_24 1 2 3 4 REF
C_C1 1 REF 0.3802328220249pf
C_C2 1 2 11.101631211414pf
C_C3 1 3 0.0508532218757pf
C_C4 1 4 0.1626775771346pf
C_C5 2 REF 0.5261594865107pf
C_C6 2 3 0.0793921828841pf
C_C7 3 REF 0.3614300974013pf
C_C8 4 REF 0.3546219507154pf
L_L1 1 5 1.2869216304194nh
R_RL1 5 2 1.3917689548e-5
L_L2 3 6 1.3113682064672nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_25 1 2 3 4 REF
C_C1 1 REF 0.4158639487165pf
C_C2 1 2 7.0840557215422pf
C_C3 1 3 0.0710936226937pf
C_C4 1 4 0.1176353500025pf
C_C5 2 REF 0.5077841008122pf
C_C6 2 3 0.062640294791pf
C_C7 2 4 0.0257048404921pf
C_C8 3 REF 0.3598948681314pf
C_C9 4 REF 0.3524718810771pf
L_L1 1 5 1.7509256357626nh
R_RL1 5 2 2.9960483632e-4
L_L2 3 6 1.3089932493028nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_26 1 2 3 4 REF
C_C1 1 REF 0.4313571158872pf
C_C2 1 2 5.7671300737608pf
C_C3 1 3 0.0811847119523pf
C_C4 1 4 0.1015729847059pf
C_C5 2 REF 0.5059756726724pf
C_C6 2 3 0.0553022922405pf
C_C7 2 4 0.0447136845815pf
C_C8 3 REF 0.358632357838pf
C_C9 4 REF 0.3508721157984pf
L_L1 1 5 1.8791987255215nh
R_RL1 5 2 9.6201534598e-5
L_L2 3 6 1.307949572336nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param51_26

